US08809371B2
Pyridin-1-ol (96 mg), cesium carbonate (412 mg), and copper iodide (50 mg) were added to a tube containing a DMF (4 ml) solution containing 3,5-dibromopyridine (200 mg) and the tube was sealed in a nitrogen atmosphere, followed by stirring at 120° C. for 11 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=1:5 to 1:1), and a brown solid of 5′-bromo-2H-[1,3′-bipyridine]-2-one (25.8 mg) was thus obtained.

reactant | Pyridin-1-ol | 96 mg | N1(CC=CC=C1)O | C5H7NO
reactant | cesium carbonate | 412 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 3,5-dibromopyridine | 200 mg | BrC=1C=NC=C(C1)Br | C5H3Br2N
catalyst | copper iodide | 50 mg | [Cu](I)I
solvent | Water | O | H2O
product | 5′-bromo-2H-[1,3′-bipyridine]-2-one | 25.8 mg | BrC=1C=C(C=NC1)N1C(C=CC=C1)=O | C10H7BrN2O
